US05472958
2(S)-(3,5-Difluorophenoxymethyl)-1-methyl-pyrrolidine hydrochloride
A 0.25 g (0.8 mmol) sample of (S)-N-BOC-2-(3,5-difluorophenoxymethyl)pyrrolidine, from Example 7b above, was dissolved in 10 mL of a 2:1 mixture of formic acid:formaldehyde and stirred for 16 hr at reflux. To this solution was added excess 10% HCl, and the mixture was extracted twice with ethyl acetate. The aqueous layer was adjusted to pH 12 with K2CO3 and then extracted with methylene chloride. The solvent was dried over MgSO4 and removed under vacuum to yield the crude product, which was then triturated with ether as ethanolic HCl was added. Repeated drying and washing with ether gave 0.118 g of title product. MS: 228 (M+H)+. NMR (D2O) δ: 2.01-2.24 (m, 2H), 2.34-2.43 (m, 1H), 3.02 (s, 3H), 3.27 (br s, 1H), 3,78 (br s, 1H), 3.92 (br s, 1H), 4.27 (dd, 1H, J=6, 11 Hz), 4.44 (dd, 1H, J=3, 11 Hz), 6.63-6.71 (m, 3H). Anal. Calcd for C12H16ClF2NO.0.8 H2O: C, 51.82; H, 6.38; N, 5.04; Found: C, 51.77; H, 6.06; N, 4.82.

reactant | (S)-N-BOC-2-(3,5-difluorophenoxymethyl)pyrrolidine | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COC1=CC(=CC(=C1)F)F | C16H21F2NO3
reactant | formaldehyde | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | formic acid | C(=O)O | CH2O2
product | 2(S)-(3,5-Difluorophenoxymethyl)-1-methyl-pyrrolidine hydrochloride | 0.118 g | Cl.FC=1C=C(OC[C@H]2N(CCC2)C)C=C(C1)F | InChI=1S/C12H15F2NO.ClH/c1-15-4-2-3-11(15)8-16-12-6-9(13)5-10(14)7-12;/h5-7,11H,2-4,8H2,1H3;1H/t11-;/m0./s1
